US06225316B1
c) 2-(3,5-Bis-trifluoromethyl-phenyl)-N-methyl-N-(3-o-tolyl-pyridin-4-yl)-isobutyramide
To a solution of 140 mg (0.71 mmol) methyl-(3-o-tolyl-pyridin-4-yl)-amine in 1 ml N,N-dimethylformamide at 0° C. were added dropwise 0.71 ml (0.71 mmol) of 1 M potassium hexamethyldisilazide solution in tetrahydrofuran. Stirring was continued for 1 h at room temperature and the reaction mixture was cooled to 0° C. again. At this temperature, a solution of 270 mg (0.85 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride in 0.5 ml tetrahydrofuran was added. After stirring for 18 h at room temperature, ethyl acetate was added and the organic phase was washed with brine, dried (magnesium sulfate) and evaporated. The residue was purified by flash chromatography to give 211 mg (58%) of the title compound as white foam.

reactant | methyl-(3-o-tolyl-pyridin-4-yl)-amine | 0.71 mmol, 140 mg | CNC1=C(C=NC=C1)C1=C(C=CC=C1)C | C13H14N2
reactant | potassium hexamethyldisilazide | 0.71 mmol, 1 M, 0.71 ml | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 0.85 mmol, 270 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-methyl-N-(3-o-tolyl-pyridin-4-yl)-isobutyramide | 211 mg, 58% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C1=C(C=NC=C1)C1=C(C=CC=C1)C)C)(C)C)(F)F | C25H22F6N2O
